US04227000
Nitroguanidine (6.05 g) was added to a solution of sodium methoxide (prepared from 1.45 g sodium) in dry methanol (65 ml) and the mixture was heated under reflux for 0.75 hours. Ethyl 3-(5,6-dimethyl-3-pyridyl)-2-formylpropionate (14.3 g) was added and the mixture was heated under reflux for 40 hours and evaporated to dryness. Water (40 ml) was added to the residue and the mixture was extracted with chloroform. The aqueous phase was adjusted to pH 6 with hydrochloric acid and the solid which separated was filtered off and recrystallised from dimethylformamideethanol to give 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone, m.p. 212°-3°.

reactant | Nitroguanidine | 6.05 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | 1.45 g | C[O-].[Na+]
reactant | Ethyl 3-(5,6-dimethyl-3-pyridyl)-2-formylpropionate | 14.3 g | CC=1C=C(C=NC1C)CC(C(=O)OCC)C=O | C13H17NO3
solvent | methanol | 65 ml | CO | CH4O
product | 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
